US07858621B2
Step 2: N-(3-Ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-3-[2-(2-methoxy-ethoxy)-6-trifluoromethyl-pyridin-3-yl]-acrylamide
N-(4-Aminomethyl-2-ethynyl-6-fluoro-phenyl)-methanesulfonamide HCl salt (45 mg, 0.156 mmol) was reacted with 3-[2-(2-methoxy-ethoxy)-6-trifluoromethyl-pyridin-3-yl]-acrylic acid (38 mg, 0.13 mmol) to give the title compound (47 mg, 70%).

reactant | N-(4-Aminomethyl-2-ethynyl-6-fluoro-phenyl)-methanesulfonamide HCl salt | 0.156 mmol, 45 mg | Cl.NCC1=CC(=C(C(=C1)F)NS(=O)(=O)C)C#C
reactant | 3-[2-(2-methoxy-ethoxy)-6-trifluoromethyl-pyridin-3-yl]-acrylic acid | 0.13 mmol, 38 mg | COCCOC1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C12H12F3NO4
product | N-(3-Ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-3-[2-(2-methoxy-ethoxy)-6-trifluoromethyl-pyridin-3-yl]-acrylamide | 47 mg, 70% | C(#C)C=1C=C(CNC(C=CC=2C(=NC(=CC2)C(F)(F)F)OCCOC)=O)C=C(C1NS(=O)(=O)C)F | C22H21F4N3O5S
